US04547567
700 mg of 3,4,6-tri-O-acetyl-2-benzyloxycarbonylamino-2-deoxy-α-D-glucopyranosyl bromide [Bull, Chem. Soc. Japn., 34, 183 (1963)] was dissolved in 2 ml of acetone, and with the solution cooled to 0° C, 290 mg of silver carbonate and 20 ml of water were added. The mixture was stirred for 1 hour at this temperature and filtered. The filtrate was concentrated to obtain 580 mg of 3,4,6-tri-O-acetyl-2-benzyloxycarbonylamino-2-deoxy-β-D-glucopyranose

reactant | 3,4,6-tri-O-acetyl-2-benzyloxycarbonylamino-2-deoxy-α-D-glucopyranosyl bromide | 700 mg | C(C)(=O)O[C@@H]1[C@H]([C@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)Br)NC(=O)OCC1=CC=CC=C1 | C20H24BrNO9
reactant | water | 20 ml | O | H2O
solvent | acetone | 2 ml | CC(=O)C | C3H6O
catalyst | silver carbonate | 290 mg | C([O-])([O-])=O.[Ag+2]
product | 3,4,6-tri-O-acetyl-2-benzyloxycarbonylamino-2-deoxy-β-D-glucopyranose | 580 mg | C(C)(=O)O[C@@H]1[C@H]([C@H](O)O[C@@H]([C@H]1OC(C)=O)COC(C)=O)NC(=O)OCC1=CC=CC=C1 | C20H25NO10
